US09227963B2
1-(3-bromo-2-methylphenoxy)tricyclo[3.3.1.13,7]decane
3-Bromo-2-methylphenol (1000 mg) and 1-bromoadamantane (2013 mg) were added to hexamethylphosphoramide (8 mL) and the mixture was heated in a microwave reactor (Biotage) at 250° C. for 35 minutes. The solution was taken up in diethyl ether, washed with water two times, washed with brine, dried on anhydrous sodium sulfate, filtered, and concentrated. The crude material was purified by flash column chromatography on silica gel using 2% ethyl acetate (hexanes) increasing to 5% ethyl acetate (hexanes) to yield the title compound.

reactant | 3-Bromo-2-methylphenol | 1000 mg | BrC=1C(=C(C=CC1)O)C | C7H7BrO
reactant | 1-bromoadamantane | 2013 mg | BrC12CC3CC(CC(C1)C3)C2 | C10H15Br
reactant | hexamethylphosphoramide | 8 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(3-bromo-2-methylphenoxy)tricyclo[3.3.1.13,7]decane | BrC=1C(=C(OC23CC4CC(CC(C2)C4)C3)C=CC1)C | C17H21BrO
